US04472586
Step C: 3-(2-Hydroxymethyl-5-nitrophenylthio)-4-hydroxybenzoic acid
A mixture of 2-mercapto-4-nitrobenzyl alcohol (3.49 g, 18.86 mmoles), 4-hydroxy-3-iodo-benzoic acid (4.67 g, 17.69 mmoles), red cuprous oxide (1.35 g, 9.44 mmoles) and 1-methyl-2-pyrrolidinone (40 ml) was heated under a N2 atmosphere. The mixture became a thick slurry at about 90° but at 130° had become a dark red solution. After 1/2 hour at 140° TLC showed that the reaction was finished. The mixture was poured onto 2N HCl (200 ml) and after stirring for a few minutes it was extracted 4× with EtOAc. The EtOAc extracts were washed with water, then extracted 4× with 1N NaOH. The aqueous extracts were washed once with EtOAc then acidified and the resulting solid filtered, washed with water and dried to yield 4.65 g of the title compound.

reactant | 2-mercapto-4-nitrobenzyl alcohol | 18.86 mmoles, 3.49 g | SC1=C(CO)C=CC(=C1)[N+](=O)[O-] | C7H7NO3S
reactant | 4-hydroxy-3-iodo-benzoic acid | 17.69 mmoles, 4.67 g | OC1=C(C=C(C(=O)O)C=C1)I | C7H5IO3
reactant | HCl | 2N, 200 ml | Cl | ClH
solvent | 1-methyl-2-pyrrolidinone | 40 ml | CN1C(CCC1)=O | C5H9NO
product | 3-(2-Hydroxymethyl-5-nitrophenylthio)-4-hydroxybenzoic acid | 4.65 g | OCC1=C(C=C(C=C1)[N+](=O)[O-])SC=1C=C(C(=O)O)C=CC1O | C14H11NO6S
